US07749992B2
Synthesis of (+/−)5-[(3,5-Bis-trifluoromethyl-benzyl)-methanesulfonyl-amino]-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester
The titled compound was prepared following the procedures described in Example 1 for the synthesis of 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester in step 8, by replacing acetic anhydride with methanesulfonyl chloride. MS (ES+): 553(M+).

reactant | 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC=C2 | C25H26F6N2O3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (+/−)5-[(3,5-Bis-trifluoromethyl-benzyl)-methanesulfonyl-amino]-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(S(=O)(=O)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CC=C2 | C24H26F6N2O4S
